US09315489B2
Stage 69.1 2-Bromo-N-(4-(trifluoromethoxy)phenyl)isonicotinamide
Carbonyldiimidazole (2.367 g, 14.60 mmol) was added to a stirred solution of 2-bromoisonicotinic acid (2.4572 g, 12.16 mmol) in MeCN (30 mL) and the RM was stirred at RT for 3 h. 4-(trifluoromethoxy)aniline (2.467 mL, 18.25 mmol) was added and RM was stirred at RT overnight. and the mixture was treated with sat. aq. Na2CO3 (50 mL) and extracted with TBME. The combined extracts were washed with aq. HCl (pH=3), brine, dried over MgSO4 and the solvent was evaporated off under reduced pressure to a residue which was triturated with n-heptane and filtered to yield the title compound as a white solid. UPLC-MS (Condition 1) tR=1.55 min, m/z=360.9-362.9 [M+H]+, m/z=358.9-360.9 [M−H]−; 1H-NMR (400 MHz, DMSO-d6) δ ppm: 7.40 (d, J=8.56 Hz, 2H) 7.77-7.97 (m, 3H) 8.12 (s, 1H) 8.61 (d, J=5.14 Hz, 1H) 10.72 (s, 1H).

reactant | Carbonyldiimidazole | 14.60 mmol, 2.367 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-bromoisonicotinic acid | 12.16 mmol, 2.4572 g | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | 4-(trifluoromethoxy)aniline | 18.25 mmol, 2.467 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeCN | 30 mL | CC#N | C2H3N
product | 2-Bromo-N-(4-(trifluoromethoxy)phenyl)isonicotinamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=CN1 | C13H8BrF3N2O2
